US07157447B2
3-[2-((3-(Benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenyl]prop-2-ynyl methanesulfonate.
A solution of intermediate 182, N-(4-fluoro-2-(3-hydroxyprop-1-ynyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.280 g, 0.57 mmol) and triethylamine (0.12 ml, 0.86 mmol) in dichloromethane (5 ml) was cooled to 0° C., treated drop wise with methanesulfonyl chloride (0.050 ml, 0.64 mmol) and then stirred for 30 min. The reaction mixture was then diluted with ethyl acetate, washed with saturated sodium bicarbonate, brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Chromatography of the residue on silica gel (elution gradient of ethyl acetate in hexane) gave 0.245 g (75% yield) of the title material as a white solid. 1HNMR 400 MHz (CDCl3) δ ppm: 1.65 (6H, s, 2×CH3), 3.10 (3H, s, SCH3), 4.05 (4H, m, 2×CH2), 4.67 (2H, d, J=6.1 Hz, NCH2), 5.03 (2H, s, CH2), 5.29 (2H, s, OCH2), 7.07 (1H, m, aromatic), 7.18 (1H,dd, J=2.5 Hz and J=9.1 Hz, aromatic), 7.32–7.36 (3H, m, aromatics), 7.38 (1H,dd, J=5.5 Hz and J=8.6 Hz, aromatic), 7.49–7.51 (2H, m, aromatics), 7.77 (1H, broad t, NH). MS (ESI+) m/e 570 [M+H+].

reactant | N-(4-fluoro-2-(3-hydroxyprop-1-ynyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.57 mmol, 0.280 g | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)C#CCO | C27H26FN3O5
reactant | triethylamine | 0.86 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.64 mmol, 0.050 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-((3-(Benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenyl]prop-2-ynyl methanesulfonate | 0.245 g, 75% yield | CS(=O)(=O)OCC#CC1=C(C=CC(=C1)F)CNC(=O)C=1N=C2C(OCCN2C(C1OCC1=CC=CC=C1)=O)(C)C | C28H28FN3O7S
